US05919793
Allyl bromide (0.66 ml) was added to a stirred suspension of methyl 2,2-dimethyl-3-(4-hydroxyphenyl)propionate (1.41 g) and potassium carbonate (1.08 g) in butan-2-one (12 ml). The reaction mixture was heated at reflux for 19 hours, cooled, and filtered. The filtrate was evaporated to give methyl 2,2-dimethyl-3-(4-allyloxyphenyl)propionate (1.59 g) as an oil; NMR(CDCl3): 1.17(6H,s), 2.78(2H,s), 3.65(3H,s), 4.50(2H,m), 5.33(2H,m), 6.02(1H,m), 6.70(2H,m) and 7.00(2H,m); m/z 248(M+).

reactant | Allyl bromide | 0.66 ml | C(C=C)Br | C3H5Br
reactant | methyl 2,2-dimethyl-3-(4-hydroxyphenyl)propionate | 1.41 g | CC(C(=O)OC)(CC1=CC=C(C=C1)O)C | C12H16O3
reactant | potassium carbonate | 1.08 g | C([O-])([O-])=O.[K+].[K+]
solvent | butan-2-one | 12 ml | CC(CC)=O | C4H8O
product | methyl 2,2-dimethyl-3-(4-allyloxyphenyl)propionate | 1.59 g | CC(C(=O)OC)(CC1=CC=C(C=C1)OCC=C)C | C15H20O3
